US20010027196A1
A stirred solution of 250 mg (0.77 mmol) trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-methyl-pyrimidin-4-yl ester and 217 mg (3.09 mmol) sodium methanethiolate in 10 ml dry DME under argon was heated at 80° C. for 2 hours. The reaction mixture was then partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was triturated in ethyl acetate/ether and the crystals collected by filtration to afford 36 mg (24%) 2-amino-6-furan-2-yl-5-methyl-3H-pyrimidin-4-one as a yellow crystalline solid. The mother liquor was concentrated in vacuo and the residue triturated in ether/hexane and the crystals collected by filtration to afford 13 mg (8%) 4-furan-2-yl-5-methyl-6-methylsulfanyl-pyrimidin-2-ylamine as a yellow crystalline solid. EI-MS m/e (%): 221 (M+, 76), 188 ([M—SH]+, 100).

reactant | trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-methyl-pyrimidin-4-yl ester | 0.77 mmol, 250 mg | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C)C=1OC=CC1 | C10H8F3N3O4S
reactant | sodium methanethiolate | 3.09 mmol, 217 mg | C[S-].[Na+]
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 2-amino-6-furan-2-yl-5-methyl-3H-pyrimidin-4-one | 36 mg, 24% | NC1=NC(=C(C(N1)=O)C)C=1OC=CC1 | C9H9N3O2
